US04256757
8-iodo-2-octynoic acid methyl ester
To a solution of 4.05 g of 8-bromo-2-octynoic acid methyl ester (prepared as described hereafter) in 24 ml of acetone was added 3.9 g of sodium iodide, the mixture was refluxed with heating for one hour, and concentrated under reduced pressure. The residue was dissolved in water, extracted with diethyl ether, the extract was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure to give 4.80 g of the title compound having the following physical characteristics:

reactant | 8-bromo-2-octynoic acid methyl ester | 4.05 g | COC(C#CCCCCCBr)=O | C9H13BrO2
reactant | sodium iodide | 3.9 g | [I-].[Na+]
solvent | acetone | 24 ml | CC(=O)C | C3H6O
product | 8-iodo-2-octynoic acid methyl ester | 4.80 g | COC(C#CCCCCCI)=O | C9H13IO2
